US05484804
By working in accordance with Example 4, starting from 2.25 g of (3aS,4S,7aS)-7,7-diphenyl-4-(2-methoxyphenyl)perhydroisoindol-4-ol hydrochloride and 1.25 g of (S)-2-tert-butoxycarbonylamino-2-phenylacetic acid, 0.35 g of (3aS,4S,7aS)-7,7-diphenyl-4-(2-methoxyphenyl)-2-[(S)-2-tert-butoxycarbonylamino-2-phenylacetyl]perhydroisoindol-4-ol is obtained in the form of a white foam.

reactant | (3aS,4S,7aS)-7,7-diphenyl-4-(2-methoxyphenyl)perhydroisoindol-4-ol hydrochloride | 2.25 g | Cl.C1(=CC=CC=C1)C1(CC[C@@]([C@@H]2CNC[C@H]12)(O)C1=C(C=CC=C1)OC)C1=CC=CC=C1
reactant | (S)-2-tert-butoxycarbonylamino-2-phenylacetic acid | 1.25 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)C1=CC=CC=C1 | C13H17NO4
product | (3aS,4S,7aS)-7,7-diphenyl-4-(2-methoxyphenyl)-2-[(S)-2-tert-butoxycarbonylamino-2-phenylacetyl]perhydroisoindol-4-ol | 0.35 g | C1(=CC=CC=C1)C1(CC[C@@]([C@@H]2CN(C[C@H]12)C([C@H](C1=CC=CC=C1)NC(=O)OC(C)(C)C)=O)(O)C1=C(C=CC=C1)OC)C1=CC=CC=C1 | C40H44N2O5
